US04259336
N-[4-(1,1-Dimethylethyl)-2-thiazolyl]-4-hydroxy-2methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 4-(1,1-dimethyl-ethyl)-2-thiazolamine with a yield of 33% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 4-(1,1-dimethyl-ethyl)-2-thiazolamine | CC(C)(C)C=1N=C(SC1)N | C7H12N2S
product | N-[4-(1,1-Dimethylethyl)-2-thiazolyl]-4-hydroxy-2methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 33% | CC(C)(C)C=1N=C(SC1)NC(=O)C=1N(S(C2=C(C1O)SC1=C2C=CC=C1)(=O)=O)C | C19H19N3O4S3
